US08022222B2
Using the method of Example 3, Step A, naphthalen-1-thiol (909 mg, 6.31 mmol), 60% sodium hydride in mineral oil (252 mg, 6.31 mmol), and 2-chloro-4-nitropyridine (1.00 g, 6.31 mmol) were reacted to afford 2-chloro-4-(naphthalen-1-ylthio)pyridine (1.53 g, 95% yield) as an oil. 1H NMR (CDCl3) δ 8.22 (d, 1H), 8.03-8.05 (m, 2H), 7.89-7.96 (m, 2H), 7.54-7.59 (m, 3H), 6.82 (s, 1H), 6.72 (d, 1H).

reactant | naphthalen-1-thiol | 6.31 mmol, 909 mg | C1(=CC=CC2=CC=CC=C12)S | C10H8S
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-4-nitropyridine | 6.31 mmol, 1.00 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
product | 2-chloro-4-(naphthalen-1-ylthio)pyridine | 1.53 g, 95% yield | ClC1=NC=CC(=C1)SC1=CC=CC2=CC=CC=C12 | C15H10ClNS
